US05192766
Ethyl 3,3-bis(4-methoxyphenyl)-2-methylacrylate
4.10 ml of phosphorus oxychloride were dropped at from 5° to 10° C. onto 140 ml of a benzene solution containing 7.02 g of ethyl 3,3-bis(4-methoxyphenyl)-3-hydroxy- 2-methylpropionate (prepared as described in Preparation 106) on an ice bath. The reaction solution was then stirred for 3 hours at room temperature, after which it was poured into water and then extracted with diethyl ether three times. The combined ethereal extracts were washed with a saturated aqueous solution of sodium bicarbonate, with water and with a saturated aqueous solution of sodium chloride, after which it was dried over anhydrous sodium sulfate and condensed by evaporation under reduced pressure. The residue (6.72 g) was subjected to flash column chromatography through 100 g of silica gel. 6.04 g of the title compound were obtained as an oily substance from those fractions eluted with a 95:5 by volume mixture of hexane and ethyl acetate.

reactant | phosphorus oxychloride | 4.10 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | benzene | 140 ml | C1=CC=CC=C1 | C6H6
reactant | ethyl 3,3-bis(4-methoxyphenyl)-3-hydroxy- 2-methylpropionate | 7.02 g | COC1=CC=C(C=C1)C(C(C(=O)OCC)C)(O)C1=CC=C(C=C1)OC | C20H24O5
solvent | water | O | H2O
product | Ethyl 3,3-bis(4-methoxyphenyl)-2-methylacrylate | 6.04 g | COC1=CC=C(C=C1)C(=C(C(=O)OCC)C)C1=CC=C(C=C1)OC | C20H22O4
